* AD706J SPICE Macro-model 9/91, Rev. A
* AAG / PMI
*
* This version of the AD706 model simulates the worst case 
* parameters of the 'J' grade.  The worst case parameters
* used correspond to those in the data sheet.
*
* Copyright 1991 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*              non-inverting input
*              |   inverting input
*              |   |   positive supply
*              |   |   |   negative supply
*              |   |   |   |   output
*              |   |   |   |   |
.SUBCKT AD706J 1   2   99  50  28
*
* INPUT STAGE & POLE AT 3 MHz
*
IOS 1 2 DC 75E-12
CIN 1 2 2E-12
R1 2 3 1.3263E8
R2 1 3 1.3263E8
EOS 9 1 POLY(1) 16 22 100E-6 1
D1 2 9 DX
D2 9 2 DX
Q1 5 2 10 QX
Q2 6 9 11 QX
R3 99 5 530.51
R4 99 6 530.51
C2 5 6 50E-12
R5 10 4 13.314
R6 11 4 13.314
I1 4 50 100E-6
*
* GAIN STAGE & DOMINANT POLE AT 2.25 HZ
*
EREF 98 0 22 0 1
G1 98 12 5 6 1.885E-3
R7 12 98 106.1E6
C3 12 98 666.67E-12
V1 99 13 DC 2.3635
D3 12 13 DX
V2 14 50 DC 2.3625
D4 14 12 DX
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 6.32 kHZ
*
ECM 15 98 3 22 3.1623
RCM1 15 16 1E6
CCM 15 16 25.165E-12
RCM2 16 98 1
*
* ZERO-POLE PAIR AT 165 kHz / 430 kHz
*
GZP1 98 17 12 22 1E-6
RZP1 17 18 1E6
RZP2 18 98 1.6061E6
LZP 18 98 594.45E-3
*
* NEGATIVE ZERO AT -3 MHz
*
ENZ 19 98 17 22 1E6
RNZ1 19 20 1
CNZ 19 20 -53.052E-9
RNZ2 20 98 1E-6
*
* POLE AT 10 MHz
*
G2 98 21 20 22 1E-6
R10 21 98 1E6
C5 21 98 15.915E-15
*
* OUTPUT STAGE
*
IDC 99 50 DC 485E-6
RDC1 99 22 1E6
RDC2 22 50 1E6
DO1 99 23 DX
GO1 23 50 27 21 2E-3
DO2 50 23 DY
DO3 99 24 DX
GO2 24 50 21 27 2E-3 
DO4 50 24 DY
VSC1 25 27 3.15
DSC1 21 25 DX
VSC2 27 26 3.15
DSC2 26 21 DX
GO3 27 99 99 21 2E-3 
GO4 50 27 21 50 2E-3 
RO1 99 27 500
RO2 27 50 500
LO 27 28 265E-9
*
* MODELS USED
*
.MODEL QX NPN(BF=250E3)
.MODEL DX D(IS=1E-15)
.MODEL DY D(IS=1E-15 BV=50)
.ENDS AD706J
